US05914328
2a. 3-(1-t-butoxycarbonyl-2-(R)-pyrrolidinylmethoxy) pyridine
To a solution of triphenylphosphine (1.24 g, 4.74 mmol) in 20 mL of tetrahydrofuran at room temperature was added diethyl azodicarboxylate (0.746 mL, 4.74 mmol) dropwise with stirring. After stirring at room temperature for 30 minutes, (R)-1-t-butoxycarbonyl-2-pyrrolidinemethanol (350 mg, 3.16 mmol) and 3-hydroxypyridine (450 mg, 4.74 mmol) were added to the reaction mixture. The resultant solution was then stirred at room temperature overnight. After all of the starting material was consumed, the organic solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography. Elution with chloroform:methanol (10: 1) provided 518 mg of the title compound along with substantial amount of reduced DEAD reagent. MS (DCI/NH3) m/e 279 (M+H)+.

reactant | triphenylphosphine | 4.74 mmol, 1.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.74 mmol, 0.746 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (R)-1-t-butoxycarbonyl-2-pyrrolidinemethanol | 3.16 mmol, 350 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CO | C10H19NO3
reactant | 3-hydroxypyridine | 4.74 mmol, 450 mg | OC=1C=NC=CC1 | C5H5NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(1-t-butoxycarbonyl-2-(R)-pyrrolidinylmethoxy) pyridine | 518 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC=1C=NC=CC1 | C15H22N2O3
